US08017630B2
2-[4-Dimethylamino-4-(4-fluorophenyl)cyclohexylidene]-N-(3-phenylpropyl)acetamide
N-methylmorpholine (0.703 ml, 6.4 mmol) were added to a solution of (4-dimethylamino-4-(4-fluorophenyl)cyclohexylidene)acetic acid hydrochloride (840 mg, 3.2 mmol) in dry dimethylformamide (25 ml) under argon. The solution was cooled to 0° C. and dicyclohexylcarbodiimide (1.32 g, 6.4 mmol) was added. The reaction mixture was stirred at RT for 4 d. Working up of the mixture was carried out by separating off the urea which had precipitated out and introducing the filtrate into a mixture of saturated NaCl solution (40 ml) and saturated NaHCO3 solution (10 ml). Still further urea thereby precipitated out and was separated off. The filtrate was diluted with water (400 ml), 5 M sodium hydroxide solution (5 ml, 25 mmol) was added and the mixture was stored at 5° C. for 3 d. The product was thereby obtained as a beige-coloured oily solid in a yield of 45% (570 mg).

reactant | N-methylmorpholine | 6.4 mmol, 0.703 ml | CN1CCOCC1 | C5H11NO
reactant | (4-dimethylamino-4-(4-fluorophenyl)cyclohexylidene)acetic acid hydrochloride | 3.2 mmol, 840 mg | Cl.CN(C1(CCC(CC1)=CC(=O)O)C1=CC=C(C=C1)F)C
reactant | dicyclohexylcarbodiimide | 6.4 mmol, 1.32 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
reactant | sodium hydroxide | 25 mmol, 5 M, 5 ml | [OH-].[Na+]
reactant | dimethylformamide | 25 ml | CN(C=O)C | C3H7NO
solvent | water | 400 ml | O | H2O
product | 2-[4-Dimethylamino-4-(4-fluorophenyl)cyclohexylidene]-N-(3-phenylpropyl)acetamide | CN(C1(CCC(CC1)=CC(=O)NCCCC1=CC=CC=C1)C1=CC=C(C=C1)F)C | C25H31FN2O
